US08703890B2
43.6 g (0.60 mol) of isobutyl aldehyde, 62.5 g (0.55 mol) of ferment lactic acid, and 1.06 g (0.05 mmol) of p-toluene sulfonic acid were dissolved in 50 ml of n-pentane, and the mixture was refluxed for 8 hours in a 500-ml flask attached to a reflux condenser comprising a Dean-Stark fractionator. After the reaction, the reaction mixture was neutralized and washed with a sodium bicarbonate aqueous solution, followed by extraction with ether. Thereafter, the ether solution was dried with anhydrous magnesium sulfate. Thereafter, ether was distilled off, and 65.3 g (yield=82.5%) of the target 5-methyl-2-isopropyl-1,3-dioxolan-4-one was obtained from the reaction mixture through distillation under reduced pressure. The target product was a diastereomer mixture wherein the ratio of cis-isomer/trans-isomer (see Production Example 1) was 80/20. The product was subjected to the next reaction without optical resolution. The following step was performed according to the monomer synthesis of Production Example 1.

reactant | lactic acid | 0.55 mol, 62.5 g | C(C(O)C)(=O)O | C3H6O3
reactant | p-toluene sulfonic acid | 0.05 mmol, 1.06 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-pentane | 50 ml | CCCCC | C5H12
product | 5-methyl-2-isopropyl-1,3-dioxolan-4-one | yield=82.5% | CC1C(OC(O1)C(C)C)=O | C7H12O3
